US09120791B2
4-{[tert-Butyl(dimethyl)silyl]oxy}-N-phenylaniline
To a solution of 12 g of 4-anilinophenol (64.7 mmol) in 200 mL of acetonitrile there are added at ambient temperature 6.7 g of imidazole (97.05 mmol) and 11.7 g of tert-butyl(chloro)dimethylsilane (77.64 mmol). The whole is stirred at 70° C. for 4 hours. Then the reaction mixture is poured onto water and extracted with ether. The organic phase is subsequently dried over magnesium sulphate and then filtered and evaporated to dryness. The crude product so obtained is then purified by chromatography over silica gel (petroleum ether/dichloromethane gradient). The title product is obtained in the form of a powder.

reactant | 4-anilinophenol | 64.7 mmol, 12 g | N(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H11NO
reactant | imidazole | 97.05 mmol, 6.7 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(chloro)dimethylsilane | 77.64 mmol, 11.7 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 4-{[tert-Butyl(dimethyl)silyl]oxy}-N-phenylaniline | [Si](C)(C)(C(C)(C)C)OC1=CC=C(NC2=CC=CC=C2)C=C1 | C18H25NOSi
